US04348264
The washed, dried methylene chloride solution of benzhydryl 1-hydroxy-2-methyl-6-(2-phenoxyacetamido)carbapenam-3-carboxylate, freshly prepared according to Example 22 was cooled to -10° C. Pyridine (22 mg., 0.28 mmole), acetic anhydride (29 mg., 0.28 mmole) and 4-dimethylaminopyridine (3.4 mg., 0.028 mmoles) were added in sequence. After stirring for 1 hour at -10° C., tlc (4:1 chloroform:ethyl acetate) indicated acetylation was complete. The reaction mixture was evaporated to dryness in vacuo with toluene chases. Chromatography on silica gel using a methylene chloride-ethyl acetate gradient (0 to 7.5% ethyl acetate) afforded benzhydryl 1-acetoxy-2-methyl-6-(2-phenoxyacetamido)carbapenam-3-carboxylate [18 mg.; Rf 0.56 (4:1 chloroform:ethyl acetate; ir (CHCl3) 1780, 1730, 1680 cm-1 ].

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | benzhydryl 1-hydroxy-2-methyl-6-(2-phenoxyacetamido)carbapenam-3-carboxylate | OC1C(C(N2[C@H]1C(C2=O)NC(COC2=CC=CC=C2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C | C29H28N2O6
reactant | Pyridine | 0.28 mmole, 22 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.28 mmole, 29 mg | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.028 mmoles, 3.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | benzhydryl 1-acetoxy-2-methyl-6-(2-phenoxyacetamido)carbapenam-3-carboxylate | C(C)(=O)OC1C(C(N2[C@H]1C(C2=O)NC(COC2=CC=CC=C2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C | C31H30N2O7
